US07514470B2
4-[(Cyanomethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
A mixture of N2-[4-cyano-3-(trifluoromethyl)phenyl]-N2-(2,2,2-trifluoroethyl)glycinamide (0.060 g, 0.18 mmol), CCl4 (0.5 mL), DCE (4.5 mL) and polymer-supported triphenyl phosphine (3 mmol/g, 0.123 g, 0.36 mmol) was heated at 87° C. for 3 h. Upon cooling, the resin was filtered off, washed thoroughly with CHCl3 and the filtrate concentrated in vacuo. The residue was purified by silica gel chromatography (5-40% EtOAc-hexane gradient) and the product was crystallized from CH2Cl2-hexanes to give the title compound as a white solid (0.030 g, 55% yield): 1H NMR (400 MHz, CDCl3) δ 7.90 (d, J=8.6 Hz, 1H), 7.20 (d, J=2.6 Hz, 1H), 7.09 (dd, J=8.6, 2.6 Hz, 1H), 4.38 (s, 2H), 4.06 (q, J=8.2 Hz, 2H); MS (ES) m/z 308 (M+1).

reactant | N2-[4-cyano-3-(trifluoromethyl)phenyl]-N2-(2,2,2-trifluoroethyl)glycinamide | 0.18 mmol, 0.060 g | C(#N)C1=C(C=C(C=C1)N(CC(=O)N)CC(F)(F)F)C(F)(F)F | C12H9F6N3O
reactant | CCl4 | 0.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triphenyl phosphine | 0.36 mmol, 0.123 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCE | 4.5 mL | ClCCCl | C2H4Cl2
product | 4-[(Cyanomethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.030 g, 55% yield | C(#N)CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H7F6N3
